US06949571B2
3-(2-Cyanophenyl)-1-(3-hydroxyphenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one
52 mg of 1-[3-(benzyloxy)phenyl]-3-(2-cyanophenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one and 20 mg of 5% palladium-carbon were added to 3 ml of methanol, followed by stirring at room temperature in hydrogen atmosphere overnight. After the resulting insoluble matters were filtered off, the filtrate was evaporated. The residue was purified by silica gel chromatography (ethyl acetate/hexane system), to give 26 mg the title compound.

reactant | 1-[3-(benzyloxy)phenyl]-3-(2-cyanophenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 52 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)N1C(C(=CC(=C1)C1=NC=CC=C1)C1=C(C=CC=C1)C#N)=O | C30H21N3O2
reactant | methanol | 3 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | 3-(2-Cyanophenyl)-1-(3-hydroxyphenyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 26 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)O)=O | C23H15N3O2
